US06613775B1
Synthesis of 8-(2,6-Dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine
Ethyl 8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate (5.2 g, 0.015 mol) was solved in tetrahydrofuran (100 ml) and LiAlH4 (1.15 g 0.03 mol) was added. After stirring the mixture at room temperature for 45 min, 1.15 ml of water was added dropwise, followed by 1.15 ml of 15% sodium hydroxide and then 3.45 ml of water. The solids were removed by filtration and washed thoroughly with methylene chloride. The filtrate and washings were combined and dried and the solvents were removed under reduced-pressure. Purification of the residue by column chromatography on silica gel using methylene chloride : methanol (10:2) as eluent gave 3.2 g (73%) of the title compound.

reactant | Ethyl 8-(2,6-dimethylbenzylamino)-3-methylimidazo[1,2-a]pyridin-2-carboxylate | 0.015 mol, 5.2 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C(=O)OCC)C)C(=CC=C1)C | C20H23N3O2
reactant | LiAlH4 | 0.03 mol, 1.15 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 1.15 ml | O | H2O
reactant | sodium hydroxide | 1.15 ml | [OH-].[Na+]
reactant | water | 3.45 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 8-(2,6-Dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine | 3.2 g, 73% | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)CO)C)C(=CC=C1)C | C18H21N3O
